US06468995B1
To a solution of diphenylmethyl 7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-methanesulfonyloxy-3-cephem-4-carboxylate (10.01 g, 8.98 m mol) in DMF (200 ml) was added 4-mercaptopyridine (2.00 g, 18.0 m mol) at −15° C., followed by dropwise addition of N,N-diisopropylethylamine (1.16 g, 8.98 m mol). The mixture was stirred at −15° C. for 4.5 hours and at 5° C. for 1 hour. The mixture was poured into a mixture of ice water (1.2 l) and 6N HCl (3 ml) and the precipitates were collected by filtration and washed with water. The powder was dissolved in THF, and ethyl acetate and water were added. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give diphenylmethyl 7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-(4-pyridylthio)-3-cephem-4-carboxylate (1.37 g).

reactant | diphenylmethyl 7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-methanesulfonyloxy-3-cephem-4-carboxylate | 10.01 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C64H51N5O8S3
reactant | 4-mercaptopyridine | 2.00 g | SC1=CC=NC=C1 | C5H5NS
reactant | N,N-diisopropylethylamine | 1.16 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | 6N, 3 ml | Cl | ClH
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | diphenylmethyl 7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-(4-pyridylthio)-3-cephem-4-carboxylate | 1.37 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SC2=CC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C68H52N6O5S3
